US06982348B2
To a solution of 1,1-dimethylethyl(1RS,2SR)-2-(6-fluoropyridin-3-yl)-2-hydroxy-1-((3-(1,1,2,2-tetrafluoroethoxy)phenyl)methyl)ethylcarbamate (1.0 g, 2.16 mmol) was added trifluoroacetic acid (10 ml), and the mixture was stirred at room temperature for 10 min. The reaction solution was concentrated under reduced pressure and 1N aqueous sodium hydroxide solution (10 ml) was added. The mixture was extracted with ethyl acetate (20 ml×2). The extract was washed with saturated brine, dried over anhydrous magnesium sulfate and evaporated under reduced pressure. The residue was recrystallized from ethyl acetate-hexane to give (1RS,2SR)-2-amino-1-(6-fluoropyridin-3-yl)-3-(3-(1,1,2,2-tetrafluoroethoxy)phenyl)-1-propanol (750 mg, 96%).

reactant | 1,1-dimethylethyl(1RS,2SR)-2-(6-fluoropyridin-3-yl)-2-hydroxy-1-((3-(1,1,2,2-tetrafluoroethoxy)phenyl)methyl)ethylcarbamate | 2.16 mmol, 1.0 g | FC1=CC=C(C=N1)C(C(CC1=CC(=CC=C1)OC(C(F)F)(F)F)NC(OC(C)(C)C)=O)O | C21H23F5N2O4
solvent | trifluoroacetic acid | 10 ml | FC(C(=O)O)(F)F | C2HF3O2
product | (1RS,2SR)-2-amino-1-(6-fluoropyridin-3-yl)-3-(3-(1,1,2,2-tetrafluoroethoxy)phenyl)-1-propanol | 750 mg, 96% | NC(C(O)C=1C=NC(=CC1)F)CC1=CC(=CC=C1)OC(C(F)F)(F)F | C16H15F5N2O2
